US07727988B2
2,4-dioxo-1-(4-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}butyl)-1,2,3,4-tetrahydro-5-pyrimidinecarbonitrile hydrochloride (E18)
2,4-dioxo-1-(4-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}butyl)-1,2,3,4-tetrahydro-5-pyrimidinecarbonitrile was treated with a solution of 4N HCl in dioxane (200 μl) to give the title compound as a pale yellow solid. (76 mg).

reactant | 2,4-dioxo-1-(4-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}butyl)-1,2,3,4-tetrahydro-5-pyrimidinecarbonitrile | O=C1N(C=C(C(N1)=O)C#N)CCCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F | C21H21F3N4O2
reactant | HCl | 4N | Cl | ClH
solvent | dioxane | 200 μl | O1CCOCC1 | C4H8O2
product | 2,4-dioxo-1-(4-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}butyl)-1,2,3,4-tetrahydro-5-pyrimidinecarbonitrile hydrochloride | Cl.O=C1N(C=C(C(N1)=O)C#N)CCCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F | InChI=1S/C21H21F3N4O2.ClH/c22-21(23,24)16-5-3-15(4-6-16)20-9-17(20)12-27(13-20)7-1-2-8-28-11-14(10-25)18(29)26-19(28)30;/h3-6,11,17H,1-2,7-9,12-13H2,(H,26,29,30);1H/t17-,20+;/m0./s1
